US04812164
A solution of 0.80 g of 2-[(isopropylideneamino)oxy]-ethanol and 0.54 g of pyridine in 25 ml of diethyl ether is added dropwise during 15 minutes while stirring at 0° C. to a solution of 2.10 g of trifluoromethanesulphonic anhydride in 50 ml of diethyl ether and the mixture is stirred at 0° C. for 15 minutes. The clear solution is pipetted off from insoluble constituents. There is obtained 2-[(isopropylideneamino)oxy]-ethyl trifluoromethanesulphonate which is used in the next step without purification.

reactant | 2-[(isopropylideneamino)oxy]-ethanol | 0.80 g | C(C)(C)=NOCCO | C5H11NO2
reactant | pyridine | 0.54 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 2.10 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[(isopropylideneamino)oxy]-ethyl trifluoromethanesulphonate | FC(S(=O)(=O)OCCON=C(C)C)(F)F | C6H10F3NO4S
